US07951815B2
TFA (68.5 g, 601 mmol) was added dropwise at 0° C. to a solution of tert-butyl 1,3-(S)-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate (13.5 g, 31.0 mmol) in CH2Cl2 (93 ml) and the mixture was stirred at this temperature for 15 min. After warming to RT, the reaction mixture was stirred for a further 2.5 h. Subsequently, the reaction solution was adjusted with aqueous saturated NaHCO3 solution to pH 7-8, the organic phase was separated off and the aqueous phase was extracted with CH2Cl2 (2×30 ml). The combined organic phase was dried over Na2SO4, filtered and the solvent was distilled off. The workup was carried out by means of column chromatography and afforded 1,3-(S)-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one in a yield of 7.8 g (75%).

reactant | TFA | 601 mmol, 68.5 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 1,3-(S)-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate | 31.0 mmol, 13.5 g | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(=O)OC(C)(C)C)CC2=CC=CC=C2)=O | C26H33N3O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 93 ml | C(Cl)Cl | CH2Cl2
product | 1,3-(S)-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one | C(C1=CC=CC=C1)N1C([C@@H](NC12CCNCC2)CC2=CC=CC=C2)=O | C21H25N3O
